US06642229B2
1-(3-Bromophenyl)-1H-[1,2,4]triazole (1.7 g, 7.6 mmol) was coupled to 3-tributylstannyl-7-trifluoromethylimidazo[1,2-a]pyrimidine (3.8 mmol) by the method of Example 32. Purification by chromatography on silica gel eluting with dichloromethane on a gradient of methanol (1-3%), then crystallisation from toluene/isohexane, gave 3-[3-([1,2,4]triazol-1-yl)-phenyl]-7-trifluoromethylimidazo[1,2-a]pyrimidine as an off-white solid: δH (400 MHz, DMSO) 9.43 (1H, d, J 7), 9.41 (1H, s), 8.38 (1H, s), 8.30 (1H, s), 8.26-8.28 (1H, m), 7.97-8.00 (1H, m), 7.76-7.81 (2H, m), 7.56 (1H, d, J 7); m/z (ES+) 331 (M++H).

reactant | 1-(3-Bromophenyl)-1H-[1,2,4]triazole | 7.6 mmol, 1.7 g | BrC=1C=C(C=CC1)N1N=CN=C1 | C8H6BrN3
reactant | 3-tributylstannyl-7-trifluoromethylimidazo[1,2-a]pyrimidine | 3.8 mmol | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
product | 3-[3-([1,2,4]triazol-1-yl)-phenyl]-7-trifluoromethylimidazo[1,2-a]pyrimidine | N1(N=CN=C1)C=1C=C(C=CC1)C1=CN=C2N1C=CC(=N2)C(F)(F)F | C15H9F3N6
